US04017492
In the manner given in Example 10, 7-chloro-2-[(1-carboxypropylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine is treated with etheral diazomethane to give 7-chloro-2-[[1-(methoxycarbonyl)propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-[(1-carboxypropylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CC)C(=O)O)C2=CC=CC=C2)C1 | C19H17ClN4O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 7-chloro-2-[[1-(methoxycarbonyl)propylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CC)C(=O)OC)C2=CC=CC=C2)C1 | C20H19ClN4O2
